data/rdb19/train.csv
rxn,smiles,ea
936,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][H:30])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])[N:24]([C:25](=[O:26])[H:32])[H:31])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.27138264279347
5436,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6]([O:7])([H:18])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],26.038502396666445
3730,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([C:20]([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:30])([H:10])[H:11])([H:7])([H:8])[H:9],24.5822085722466
2438,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[C:9]([C:8]([H:14])([H:15])[H:16])([O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:5])([H:6])[H:7],23.588804091967177
1259,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:18]([O:17][C:15]([C:14]([H:20])([H:21])[H:22])=[O:16])([C:19]([H:24])[H:25])[H:23],36.54188754258212
3151,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([C:25]([H:26])[H:27])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[H:11][C:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])([H:26])[H:27],21.216449134226423
3917,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],24.874924217700027
1491,[C:10]([C:11]([C:12]([H:13])[H:14])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:24])[H:6],45.40219001809601
1771,[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([O:16][C:15]([H:22])([H:23])[H:24])([O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([O:16][C:15]([H:22])([H:23])[H:24])=[O:18])([H:11])[H:12])([H:8])([H:9])[H:10],7.291679742978886
745,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]1([N:7]([H:17])[H:18])[O:6][C:24]1([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34],42.69462304573972
4697,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([N:19]([C:20]=[O:21])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],24.33127258258173
